US06255307B1
2-Amino-3-(2,3,5-trichlorophenyl)pyrazine
A solution of 2,3,5-trichlorobenzeneboronic acid (1.54 g, 6.82 mmol) in absolute ethanol (1.5 ml) was added slowly to a mixture of 2-amino-3-chloropyrazine (0.589 g, 4.54 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.299 g, 0.259 mmol) in benzene (10.5 ml)/2M aqueous sodium carbonate (4.54 ml). The mixture was refluxed for 17 hours. The cooled reaction mixture was partitioned between water and ethylacetate (50 ml). The organic layer was washed with water (2×30 ml), dried (MgSO4) and evaporated. The crude product was purified by flash chromatography using chloroform to 0.5% methanol/chloroform as the eluent. The product was then crystallised from 40-60 petrol. Yield 0.15 g, 12% M.p. 142-143° C.

reactant | 2,3,5-trichlorobenzeneboronic acid | 6.82 mmol, 1.54 g | ClC1=C(C=C(C=C1Cl)Cl)B(O)O | C6H4BCl3O2
reactant | 2-amino-3-chloropyrazine | 4.54 mmol, 0.589 g | NC1=NC=CN=C1Cl | C4H4ClN3
reactant | sodium carbonate | 2M, 4.54 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | benzene | 10.5 ml | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.259 mmol, 0.299 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-3-(2,3,5-trichlorophenyl)pyrazine | NC1=NC=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl | C10H6Cl3N3
